US05109024
Step G: N,N'-Bis[3-(methylamino)butyl]-1,7-diaminoheptane tetrahydrochloride
Add lN HCl in methanol (50 ml) to 1,2,16,17-tetramethyl-1,5,13,17-tetra (t-butoxycarbonyl)-1,5,13,17-tetraazaheptadecane (3.8 g, 0.0054 mol) and stir overnight. Remove the solvent in vacuo and recrystallize the residue two times from methanol/acetonitrile (40/60, v/v) to yield 0.74 g of the title compound as a white solid (mp 238°-9 ° C.). Rf is 0.31 for TLC on silica gel developed with 40% conc. ammonia in methanol.

reactant | HCl | Cl | ClH
reactant | 1,2,16,17-tetramethyl-1,5,13,17-tetra (t-butoxycarbonyl)-1,5,13,17-tetraazaheptadecane | 0.0054 mol, 3.8 g | CN(C(CCN(CCCCCCCN(CCC(N(C(=O)OC(C)(C)C)C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C)C(=O)OC(C)(C)C | C37H72N4O8
solvent | methanol | 50 ml | CO | CH4O
product | N,N'-Bis[3-(methylamino)butyl]-1,7-diaminoheptane tetrahydrochloride | 0.74 g | Cl.Cl.Cl.Cl.CNC(CCNCCCCCCCNCCC(C)NC)C | InChI=1S/C17H40N4.4ClH/c1-16(18-3)10-14-20-12-8-6-5-7-9-13-21-15-11-17(2)19-4;;;;/h16-21H,5-15H2,1-4H3;4*1H
